US05550121
To a solution of 1.6M methyllithium-ether solution (5.5 ml, 8.8 mmol) in tetrahydrofuran (20 ml) was added (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(formylmethyl)pyrrolidine (1.67 g, 4.86 mmol) under a nitrogen atmosphere at -70° C., and the mixture was stirred for 2 h at the same temperature. To the mixture was added saturated aqueous ammonium chloride (3 ml) below -70° C., and then the mixture was warmed at room temperature. The reaction mixture was poured into a mixture of water (200 ml) and 1N aqueous potassium hydrogensulfate (20 ml), and extracted with ethyl acetate (3×50 ml). The combined organic layer was washed successively with water and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was subjected to silica gel column chromatography (heptane-ethyl acetate) to give (2R,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-hydroxypropyl)pyrrolidine diastereomer A (890 mg, yield: 51%) and diastereomer B (350 mg, yield: 20%).

reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(formylmethyl)pyrrolidine | 4.86 mmol, 1.67 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC=O | C17H33NO4Si
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
reactant | water | 200 ml | O | H2O
reactant | potassium hydrogensulfate | 1N, 20 ml | S(=O)(=O)(O)[O-].[K+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2R,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-hydroxypropyl)pyrrolidine | yield: 51% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC(C)O | C18H37NO4Si
